US04948795
A mixed solution of 3-(3-chloropropyl)pyridine 1.92 g, ethyl 1-piperazinecarboxylate 1.6 g, anhydrous potassium carbonate 3.0 g, potassium iodide 1 g, tetra-n-butylammonium bromide 0.1 g and 2-butanone 50 ml was refluxed for 24 hours. To the reaction mixture was added water 50 ml, and the product was extracted with ethyl acetate. The extract was washed with saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated to dryness under reduced pressure to yield 1-ethoxycarbonyl-4-[3-(3-pyridyl)propyl]piperazine. This was dissolved in a mixture of 20% sodium hydroxide 25 ml and ethanol 25 ml and the solution refluxed for 2 days. The reaction mixture was concentrated under reduced pressure and to the residue was added ethyl acetate 100 ml and anhydrous magnessium sulfate. After stirring the resultant mixture, the insoluble matter was filtered off. The filtrate was concentrated under reduced pressure to yield 1.56 g of oily 1-[3-(3-pyridyl)propyl]piperazine.

reactant | 3-(3-chloropropyl)pyridine | 1.92 g | ClCCCC=1C=NC=CC1 | C8H10ClN
reactant | ethyl 1-piperazinecarboxylate | 1.6 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1 g | [I-].[K+]
catalyst | tetra-n-butylammonium bromide | 0.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 50 ml | O | H2O
solvent | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | 1-ethoxycarbonyl-4-[3-(3-pyridyl)propyl]piperazine | C(C)OC(=O)N1CCN(CC1)CCCC=1C=NC=CC1 | C15H23N3O2
